US05389640
1-[1-(2-Methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]propan-2-one
2-Methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline (1 g, 4.2 mmol) was dissolved in anhydrous tetrahydrofuran (20 mL) then cooled to -78° C. A portion of lithium diisopropyl amide (2.8 mL, 4.2 mmol) was added dropwise to the cooled solution. At 10 minutes post addition, N-methoxy-N-methylacetamide (0.45 g, 4.4 mmol), prepared according to the method of T. A. Oster and T. M. Harris, Tetrahedron Letters, 24, 1851 (1983) was added. After 15 minutes the reaction was quenched with water and the resulting precipitate was collected and dried to provide the desired product as a solid. The structure was confirmed by nuclear magnetic resonance spectroscopy.

reactant | 2-Methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | 4.2 mmol, 1 g | CC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)C | C15H17N3
reactant | lithium diisopropyl amide | 4.2 mmol, 2.8 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-methoxy-N-methylacetamide | 4.4 mmol, 0.45 g | CON(C(C)=O)C | C4H9NO2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-[1-(2-Methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]propan-2-one | CC(CN1C(=NC=2C=NC=3C=CC=CC3C21)CC(C)=O)C | C17H19N3O
